US06727264B1
N-(3-{1-[6-(2-FLUOROPHENYL)-6-(2-METHOXYPHENOXY)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 2-methoxyphenol and N-(3-[1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 547.0 (M+H)+.

reactant | 2-methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | N-(3-[1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C27H37FN2O2
product | N-(3-{1-[6-(2-FLUOROPHENYL)-6-(2-METHOXYPHENOXY)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=C(C=CC=C1)OC | C34H43FN2O3
